US06610692B1
Step 1 Ethyl trans-3-(2-Pyridyl)acrylate
To a stirred solution of triethyl phosphonoacetate (10.5 g, 47 mmol) in THF (100 mL) at 0° C. was added sodium hydride (2.2 g of a 60% suspension in mineral oil, 55 mmol) in portions over a period of 30 min, followed by pyridine 2-carboxaldehyde (5.0 g, 47 mmol). The resulting solution was stirred at 0° C. for 1 h and then at ambient temperature for 18 h. The solution was diluted with EtOAc and water. The organic phase was separated, washed with water, dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography using a gradient elution of 15-25% EtOAc:hexanes to give the title compound as a colorless liquid (6.0 g; TLC Rf=0.5, 1:2 EtOAc:hexanes).

reactant | sodium hydride | [H-].[Na+]
reactant | pyridine 2-carboxaldehyde | 47 mmol, 5.0 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Ethyl trans-3-(2-Pyridyl)acrylate | 6.0 g | N1=C(C=CC=C1)/C=C/C(=O)OCC | C10H11NO2
